US04916148
A mixture of 1,2-dihydro-1,1-dimethyl-2-oxo-8-(1H-1,2,4-triazol-1-ylmethyl)naphtho[2,1-b]furan-7-carbonyl chloride, dimethylamine hydrochloride (0.25 g) and dichloromethane (2 ml) was stirred at 0° and treated with triethylamine (1 ml), and stirring was continued for 0.5 h. The mixture was treated with water (10 ml) and extracted twice with chloroform, and the combined extracts were dried and evaporated to dryness under reduced pressure. The residue was purified by flash chromatography, using methanol:dichloromethane, 1:50 v/v, as eluant, to give 1,2-dihydro-1,1,N,N-tetramethyl-2-oxo-8-(1H-1,2,4-triazol-1-ylmethyl)naphtho[2,1-b]furan-7-carboxamide, m.p. 172°-173°.

reactant | 1,2-dihydro-1,1-dimethyl-2-oxo-8-(1H-1,2,4-triazol-1-ylmethyl)naphtho[2,1-b]furan-7-carbonyl chloride | CC1(C2=C(OC1=O)C=CC1=CC(=C(C=C12)CN1N=CN=C1)C(=O)Cl)C | C18H14ClN3O3
reactant | dimethylamine hydrochloride | 0.25 g | Cl.CNC
reactant | dichloromethane | 2 ml | ClCCl | CH2Cl2
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | water | 10 ml | O | H2O
product | 1,2-dihydro-1,1,N,N-tetramethyl-2-oxo-8-(1H-1,2,4-triazol-1-ylmethyl)naphtho[2,1-b]furan-7-carboxamide | CC1(C2=C(OC1=O)C=CC1=CC(=C(C=C12)CN1N=CN=C1)C(=O)N(C)C)C | C20H20N4O3
